US09162992B2
2-Cyclopropylmethoxy-isoindole-1,3-dione (LXXXVI)
N-Hydroxyphthalimide and cyclopropyl-methanol were reacted as described for compound LIX in Example 27, to afford LXXXVI in 87% yield. 400 MHz 1 NMR (DMSO-d6, ppm) 7.86 (4H, s), 3.97 (2H, d, J=7.4 Hz), 1.22-1.11 (1H, m), 0.61-0.48 (2H, m), 0.34-0.22 (2H, m).

reactant | N-Hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | cyclopropyl-methanol | C1(CC1)CO | C4H8O
product | 2-Cyclopropylmethoxy-isoindole-1,3-dione | 87% yield | C1(CC1)CON1C(C2=CC=CC=C2C1=O)=O | C12H11NO3
